datasets/10k_Mayr_OG.csv
SMILES Labelled
"CC[O:62]/[C:11](=[CH:10]/[N:71]=[CH:72]/[C:73]1=[CH:74][CH:75]=[C:76](Cl)[CH:85]=[CH:84]1)[O-:12].C[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[C:54](C)[CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>CC[O:62][C:11]([CH:10]([C:20]([C:31]1=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[C:54](C)[CH:55]=[CH:56]1)/[N:71]=[CH:72]/[C:73]1=[CH:74][CH:75]=[C:76](Cl)[CH:85]=[CH:84]1)=[O:12] 10,11=10,20;12=11,12"
"O=[N+]([O-])[C:43]1=[CH:42][C:21]([N+:22](=[O:23])[O-:33])=[CH:20][S:44]1.[O+]#C[Fe-3:63]123(C#[O+])(C#[O+])C4C[CH:10]=[CH:11][CH:62]1C2C43>>O=[N+]([O-])[C:43]1=[CH:42][C:21](=[N+:22]([O-:23])[O-:33])[CH:20]([CH:10]2CC3C4C5[CH:62]([CH+:11]2)[Fe-3:63]345(C#[O+])(C#[O+])C#[O+])[S:44]1 10,11=10,20;20,21=21,22;22,23=23"
"CN1C(=O)C(CC2=CNC3=CC=CC=C23)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1(C)C.C[Si:63](C)(C)[CH2:62][CH:11]([H:10])[C:71]1=[CH:72][CH:73]=[CH:74][CH:83]=[CH:82]1>>CN1C(=O)C(CC2=CNC3=CC=CC=C23)[N:23]([CH:22]=[CH:21][CH:20]([H:10])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1(C)C.C[Si:63](C)(C)[CH2:62][CH+:11][C:71]1=[CH:72][CH:73]=[CH:74][CH:83]=[CH:82]1 10,11=10,20;20,21=21,22;22,23=23"
"CO[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[C:21]2/C3=CC=CC=C3[N+:23](C)=[CH:22]2)[CH:36]=[CH:35]1.[C-:10]([N+:61]#[N:62])([C:72]1=[CH:73][CH:74]=[CH:75][CH:84]=[CH:83]1)[C:92]1=[CH:93][CH:94]=[CH:95][CH:104]=[CH:103]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([C:10]([N+:61]#[N:62])([C:72]2=[CH:73][CH:74]=[CH:75][CH:84]=[CH:83]2)[C:92]2=[CH:93][CH:94]=[CH:95][CH:104]=[CH:103]2)[C:21]2=[CH:22][N:23](C)C3=CC=CC=C32)[CH:36]=[CH:35]1 10=20;20,21=21,22;22,23=23"
"C1C[C:11](=[CH2:10])C1.CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20]/[CH:41]=[CH:42]/C2=CC=C([N+](=O)[O-])C=C2)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25]>>CC(C)(C)[C:23]1=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32][C:21]([CH:20]([CH2:10][C+:11]2CCC2)/[CH:41]=[CH:42]/C2=CC=C([N+](=O)[O-])C=C2)=[CH:22]1 10,11=10,20;20,21=21,22;22,23=23,24;24,25=25"
"C1CCN([C:34]2=[CH:33][CH:32]=[C:31]([CH+:20][C:41]3=[CH:42][CH:43]=[C:44](N4CCCC4)[CH:45]=[CH:46]3)[CH:36]=[CH:35]2)C1.[CH:10](=[N+:11]([O-:12])[O-:62])[C:71]1=[CH:72][CH:73]=[C:74]([N+:75](=[O:76])[O-:86])[CH:82]=[CH:83]1>>C1CCN([C:34]2=[CH:33][CH:32]=[C:31]([CH:20]([CH:10]([N+:11](=[O:12])[O-:62])[C:71]3=[CH:72][CH:73]=[C:74]([N+:75](=[O:76])[O-:86])[CH:82]=[CH:83]3)[C:41]3=[CH:42][CH:43]=[C:44](N4CCCC4)[CH:45]=[CH:46]3)[CH:36]=[CH:35]2)C1 10,11=10,20;12=11,12"
"FC(F)(F)[S:61]([CH-:10][C:81]1=[CH:82][CH:83]=[C:84]([C:85]#[N:86])[CH:93]=[CH:92]1)(=[O:62])=[O:72].[CH:20]1=[CH:21][C:22](=[O:23])[O:43][C:31]1=[O:32]>>FC(F)(F)[S:61]([CH:10]([CH:20]1[CH:21]=[C:22]([O-:23])[O:43][C:31]1=[O:32])[C:81]1=[CH:82][CH:83]=[C:84]([C:85]#[N:86])[CH:93]=[CH:92]1)(=[O:62])=[O:72] 10=20;20,21=21,22;22,23=23"
"C[Si](C)(C)[Si:62]([Si](C)(C)C)([C:11](C)=[CH2:10])[Si:63](C)(C)C.[C:20](=[S:21])=[S:31]>>C[Si](C)(C)[Si:62]([Si](C)(C)C)([C+:11](C)[CH2:10][C:20]([S-:21])=[S:31])[Si:63](C)(C)C 10,11=10,20;20,21=21"
"CO[C:54]1=[CH:53][CH:52]=[C:51]([CH:20]=[C:21]([S:32](C2=CC=CC=C2)(=[O:33])=[O:34])[S:41](C2=CC=CC=C2)(=[O:42])=[O:43])[CH:55]=[CH:56]1.[CH-:10]([C:71]([C:62]1=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]1)=[O:72])[N+:81](=[O:82])[O-:92]>>CO[C:54]1=[CH:53][CH:52]=[C:51]([CH:20]([CH:10]([C:71]([C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)=[O:72])[N+:81](=[O:82])[O-:92])[C-:21]([S:32](C2=CC=CC=C2)(=[O:33])=[O:34])[S:41](C2=CC=CC=C2)(=[O:42])=[O:43])[CH:55]=[CH:56]1 10=20;20,21=21"
"C/[C:11](=[CH:10]/C1=CC=CC=C1)[O-:12].F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([CH+:20][CH:41]=[CH:42][C:53]2=[CH:54][C:55](F)=[CH:56][C:57](F)=[CH:58]2)=[CH:32]1>>C[C:11]([CH:10](C1=CC=CC=C1)[CH:20]([C:31]1=[CH:32][C:33](F)=[CH:34][C:35](F)=[CH:36]1)[CH:41]=[CH:42][C:53]1=[CH:54][C:55](F)=[CH:56][C:57](F)=[CH:58]1)=[O:12] 10,11=10,20;12=11,12"
"C[C:11]1=[N:10][CH:61]=[C:62](C)[NH:12]1.O=C([O-])C1CC2=C(C=CC=C2)/[N+:23]1=[CH:22]/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1>>C[C:11]1=[NH+:12][C:62](C)=[CH:61][N:10]1[CH:20]([CH:21]=[CH:22][N:23]1C2=C(C=CC=C2)CC1C(=O)[O-])[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
C1=C[C:31]2=[C:32](C=C1)[CH:33]=[CH:34][C:35]1=[C:36](C=CC=C1)[CH+:20]2.C[N:10](C)[NH2:61]>>C[N+:10](C)([CH:20]1[C:31]2=[C:32](C=CC=C2)[CH:33]=[CH:34][C:35]2=[C:36]1C=CC=C2)[NH2:61] 10=20
Cl[C:64]1=[CH:63][CH:62]=[C:61]([NH2:10])[CH:72]=[CH:73]1.F[C:33]1=[CH:34][CH:35]=[CH:36][C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[CH:44][C:45](F)=[CH:46]2)=[CH:32]1>>F[C:33]1=[CH:34][CH:35]=[CH:36][C:31]([CH:20]([NH2+:10][C:61]2=[CH:62][CH:63]=[C:64](Cl)[CH:73]=[CH:72]2)[C:41]2=[CH:42][CH:43]=[CH:44][C:45](F)=[CH:46]2)=[CH:32]1 10=20
"C1C[O:33][C:22](=[O:23])[C:21]1=[CH2:20].CCC(CO)[NH2:10]>>CCC(CO)[NH2+:10][CH2:20][C:21]1=[C:22]([O-:23])[O:33]CC1 10=20;20,21=21,22;22,23=23"
